US05232941
Synthesis of 2-(2-thienyl)-ethyl 2-cyano-3-(3,4,5-triethoxycarbonyloxyphenyl)-2-propenoate (Compound 29)
By using 2-(2-thienyl)-ethyl 2-cyano-3-(3,4,5-trihydroxyphenyl)-2-propenoate in lieu of phenyl 2-cyano-3-(3,4-dihydroxyphenyl)-2-propenoate and changing the amount of ethyl chloroformate to 3.3 equivalents in the process of Example 1, the title compound was obtained.

reactant | 2-(2-thienyl)-ethyl 2-cyano-3-(3,4,5-trihydroxyphenyl)-2-propenoate | C(#N)C(C(=O)OCCC=1SC=CC1)=CC1=CC(=C(C(=C1)O)O)O | C16H13NO5S
reactant | phenyl 2-cyano-3-(3,4-dihydroxyphenyl)-2-propenoate | C(#N)C(C(=O)OC1=CC=CC=C1)=CC1=CC(=C(C=C1)O)O | C16H11NO4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 2-(2-thienyl)-ethyl 2-cyano-3-(3,4,5-triethoxycarbonyloxyphenyl)-2-propenoate | C(#N)C(C(=O)OCCC=1SC=CC1)=CC1=CC(=C(C(=C1)OC(=O)OCC)OC(=O)OCC)OC(=O)OCC | C25H25NO11S
